Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vomiting, Abdominal discomfort 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with a PMH notable for 
congenital heart disease, Tourette syndrome, dysgenesis of 
corpus callosum who presented to the ED with fevers, abdominal 
pain, nausea and vomiting, and hypoxia over the past few days. 

Has been having nausea and abdominal discomfort for about a 
month now. More recently, symptoms progressed to involve 
spontaneous vomiting that comes on more often in the morning. 
Reports having had 1 emesis daily in the morning for the past 
week. Comes on without warning or a specific trigger. No 
associated diarrhea. Has had a chronic cough since having a 
pneumonia 2 months ago. Had a fever day of presentation. No 
chest pain or shortness of breath.

Went to PCP office on ___. Reported to have T 101.7, 
dehydrated, and had bilious emesis in office, low oxygen 
saturation 89%. Referred to the ED for further evaluation. 

In the ED, initial VS were: 97.1 106 ___ 95%RA. Influenza 
swab was negative. Labs showed a leukocytosis with WBC 12.6 (83% 
PMNs), BUN/Cr ___, US with small leuks and negative nitrites. 
CT Ch/Ab/P showed no PE, complex congenital cardiac 
malformation, prominent mediastinal lymphadenopathy, possible 
cirrhosis, and stranding in the retroperitoneum with prominent, 
but not
pathologically enlarged lymph nodes. 

Of note, he was treated for PNA with azithromycin in late 
___. At a follow-up appointment in ___, he had 
complaints of persistent fatigue and chills. Exam was notable 
for distant breath sounds and faint wheeze so CT Chest was 
ordered. This was done ___ and did not show any PNA. A 
fusiform 5cm aortic aneurysm of the ascending aorta was noted. 

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative.

 
Past Medical History:
- Congenital Heart Disease
- Congenital dysgenesis of the corpus callosum
- Tourette's 
- HTN 
- Pre-diabetes 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for
hospitalization.
 
Physical Exam:
VITALS: Afebrile and VSS
GENERAL: Alert and in no apparent distress.
EYES: Anicteric, pupils equally round.
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  No HSM.
GU: No suprapubic fullness or tenderness to palpation.
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs.
SKIN: No rashes or ulcerations noted.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech is difficult to understand, moves all limbs, 
sensation to light touch grossly intact throughout.
 
Pertinent Results:
___: 
Na 134 Cl: 95 BUN: 19 Gluc: 116   AGap=17 
K: 4.5 CO2: 22 Cr: 1.1  

ALT: 53 AP: 145 Tbili: 0.8 Alb: 4.4 
AST: 33 LDH: 206 Lip: 24     

MCV: 88 
WBC: 12.6 Hgb: 12.7 Plt: 274 
Hct: 38.0  
N:83.0 L:5.6 M:9.2 E:1.4 Bas:0.3 ___: 0.5 Absneut: 10.42 
Abslymp: 0.70 Absmono: 1.16 Abseos: 0.18 Absbaso: 0.04  

___: Includes Metas, Myelos And Pros. 

INR 1.5

Lactate 1.4
   
FluAPCR: Negative 
FluBPCR: Negative 

proBNP: 537

HbA1C 5.7%

CHEST (PA & LAT) ___ 
IMPRESSION: No acute cardiopulmonary process. 

CTA CHEST ___
1. No definite evidence of pulmonary embolism to the segmental 
level. 
2. There is complex congenital cardiac malformation, limiting 
evaluation. 
3. Prominent mediastinal lymph nodes likely reactive. 
4. Heterogeneous enhancement with nodular contour of the liver 
suggestive of possible cirrhosis. 
5. Stranding in the retroperitoneum with multiple prominent 
mesenteric and retroperitoneal lymph nodes which are not 
pathologically enlarged are nonspecific. 
 
Brief Hospital Course:
Mr. ___ is a ___ male with a PMH notable for 
congenital heart disease, Tourette syndrome, and congenital 
dysgenesis of corpus callosum who presented to the ED with 
fevers, abdominal pain, nausea and vomiting over the past few 
days, and hypoxia.

ACUTE/ACTIVE PROBLEMS:
# Abdominal Pain # Nausea/Vomiting #Suspected Viral 
Gastroenteritis 
Initially there was concern that his symptoms had been goping on 
for longer than a week, up to a month potentially even the pasy 
year, but after speaking to his mother, she explained that his 
nausea/vomiting and po intolerance has been going on for about a 
week now but no longer. He did have a bout of pneumonia a month 
ago and just as he began to feel improved from that standpoint, 
he developed current symptomns as above. We further discussed 
the role of upper endoscopy given his history of congenital 
dysgenesis, no baseline EGD and symptoms of emesis, po 
intolerance etc. While we cannot definitively confirm etiology, 
and differential is braod, his symptoms are most likely due to 
viral gastroenteritis given acuity of presentation and rapidiity 
of improvement. We also discussed that even minor procedures for 
him carry a higher risk than the average patient, and upper 
endoscopy at this time will likely be high risk and low yield. 
As such, we will hold off on inpatient workup and have patient 
discuss further need for this in the ouptaitnet setting with his 
PCP who knows him well. He was clearly advised to return if he 
redevelops worsening abdominal pain, nausea or vomiting, but 
otherwise will follow with PCP for further management. We 
attempted to collect stool studies but patient did not have any 
diarrhea while in-house so unable to perform specific micro 
testing. He did have mild leukocytosis on admission as well as 
mild hyponatremia (134) as below but he declined further 
bloodwork the next 2 days so unable to establish trend. He has 
been afebrile since admission without hypotension or tachycardia 
and is well-appearing on day of discharge. He tolerated regular 
diet while here and is encouraged to continue to hydrate after 
discharge while maintiaining a balnd GI diet for the next few 
days.  Currently feeling much better. initially thought to be

#Mild Hyponatremia - suspect hypovolemic hyponatremia in the 
setting of emesis and poor po intake. He was treated with 1L IVF 
on admission and encourage to hydrate orally after that. Unable 
to confirm improvement prior to discharge as patient has been 
declining further lab draws. Since mild to begin with and 
currently well-appearing and tolerating regular diet, he is safe 
for discharge today with outpatient follow up. 

Transitional Issues: 
[ ] consider GI referral for consideration of upper endoscopy as 
needed for recurrent emesis / abdominal pain / po intolerance
[ ] incidental finding made of congestive hepatopathy, along 
with mildly elevated AST and INR. proBNP mid ___, hypo- to 
euvolemic on exam. Follow up with outpatient cardiologist and 
PCP. Patient has history of cardiac surgery and could benefit 
from repeat echocardiogram and trending liver function tests in 
the outpatient setting. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN cough, wheezing 
2. Lisinopril 10 mg PO DAILY 
3. RisperiDONE 3 mg PO QHS 
4. Aspirin 81 mg PO DAILY 
5. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN cough, wheezing  
2.  Aspirin 81 mg PO DAILY  
3.  Lisinopril 10 mg PO DAILY  
4.  Loratadine 10 mg PO DAILY  
5.  RisperiDONE 3 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Infectious Gastroenteritis, likely viral
Mild dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for vomiting and abdominal 
discomfort. We treated you with intravenous fluids for mild 
dehydration which was caused by your decreased food intake and 
vomiting. We think you probably had a virus or stomach bug which 
is common this time of year. Since your vomiting has resolved 
and you have been tolerating regular food, it is much less 
likely at this point that there's something else going on that 
would warrant further testing. We had discussed the role of 
upper endoscopy to look at your feeding tube (Esophagus) and 
stomach to make sure there's nothing else going on that would be 
causing your symptoms, but given your symptoms have been going 
on for only about a week and have since improved, the risks of 
such a procedure at this point would outweigh any potential 
benefit. Please follow up with Dr. ___ as scheduled below or 
sooner as needed for recurrent symptoms of vomiting or food 
intolerance. If you do develop recurrent or worsening symptoms 
of abdominal pain, vomiting, reflux or difficulty swallowing, 
you should talk to a Gastroenterologist about whether there's a 
role for upper endoscopy at that point. 

We have not made any changes to your home medications, you can 
resume all home medications after discharge. 

Since you are still recovering from the stomach virus, you 
should make sure you hydrate well and take it easy with your 
diet at first. We recommend a low fat, low dairy diet for the 
next ___ days. You should also avoid spicy or fried food, but 
you can slowly advance back to your usual home diet after that 
if you continue to feel well. 
 
Followup Instructions:
___